US03989704
A mixture of 76.5 g. of α-hydroxy-N-methyl-α-phenyl-o-toluamide and (0.314 mole) 150 ml. o-dichlorobenzene is heated at reflux for 18 hours. The mixture is cooled and filtered and the resulting solid triturated with cold ether to give 3-phenyl phthalide.

reactant | α-hydroxy-N-methyl-α-phenyl-o-toluamide | OC(C=1C(=CC=CC1)C(=O)NC)C1=CC=CC=C1 | C15H15NO2
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-phenyl phthalide | C1(=CC=CC=C1)C1OC(=O)C2=CC=CC=C12 | C14H10O2
